US07291619B2
3-(4-Chloro-phenyl)-2-[(2-methoxy-ethyl)-(1,2,3,4-tetrahydro-isoquinolin-3-ylmethyl)-amino]-1-[4-(2-pyrrolidin-1-ylmethyl-phenyl)-piperazin-1-yl]-propan-1-one tetrahydrochloride
4-(2-Pyrrolidin-1-ylmethyl-phenyl)-piperazine-1-carboxylic acid t-butyl ester was deprotected and then the resulting amine hydrochloride (0.10 gm, 0.30 mmol) was coupled with lithium 2-[(2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-isoquinolin-3-ylmethyl)-(2-methoxy-ethyl)-amino]-3-(4-chloro-phenyl)-propionate (0.23 gm, 0.45 mmol). The mixture was chromatographed to obtain the crude coupled product [MS (m/z, ES+): 730.4], which was deprotected to give about 0.068 g of the final compound as brown solids. MS (m/z, ES+): 630.3

reactant | 4-(2-Pyrrolidin-1-ylmethyl-phenyl)-piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CN1CCCC1 | C20H31N3O2
reactant | lithium 2-[(2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-isoquinolin-3-ylmethyl)-(2-methoxy-ethyl)-amino]-3-(4-chloro-phenyl)-propionate | 0.45 mmol, 0.23 gm | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1CN(C(C(=O)[O-])CC1=CC=C(C=C1)Cl)CCOC.[Li+]
product | 3-(4-Chloro-phenyl)-2-[(2-methoxy-ethyl)-(1,2,3,4-tetrahydro-isoquinolin-3-ylmethyl)-amino]-1-[4-(2-pyrrolidin-1-ylmethyl-phenyl)-piperazin-1-yl]-propan-1-one tetrahydrochloride | about 0.068 g | Cl.Cl.Cl.Cl.ClC1=CC=C(C=C1)CC(C(=O)N1CCN(CC1)C1=C(C=CC=C1)CN1CCCC1)N(CC1NCC2=CC=CC=C2C1)CCOC | InChI=1S/C37H48ClN5O2.4ClH/c1-45-23-22-43(28-34-25-30-8-2-3-9-31(30)26-39-34)36(24-29-12-14-33(38)15-13-29)37(44)42-20-18-41(19-21-42)35-11-5-4-10-32(35)27-40-16-6-7-17-40;;;;/h2-5,8-15,34,36,39H,6-7,16-28H2,1H3;4*1H
